US09326975B2
Step 2) 4-(4-aminophenoxy)pyridin-2-amine
To a mixture of 4-aminophenol (218 mg, 2 mmol) and 4-chloropyridin-2-amine (256 mg, 2 mmol) in DMSO (2.5 mL) was added NaOCH3 (216 mg, 4 mmol). The reaction was microwaved at 180° C. for 40 minutes, then cooled down to rt and quenched with water (10 mL). The mixture was extracted with EtOAc (10 mL×3). The combined organic phases were dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/CH3OH (v/v)=30/1) to give the title compound as a brown solid (103 mg, 26%).

reactant | 4-aminophenol | 2 mmol, 218 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | 4-chloropyridin-2-amine | 2 mmol, 256 mg | ClC1=CC(=NC=C1)N | C5H5ClN2
reactant | NaOCH3 | 4 mmol, 216 mg | O([Na])C
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | 4-(4-aminophenoxy)pyridin-2-amine | 103 mg, 26% | NC1=CC=C(OC2=CC(=NC=C2)N)C=C1 | C11H11N3O
